US09302999B2
Step A: Preparation of 2-(2,4-difluorophenyl)-4,5-dimethyl-2H-1,2,3-triazole 1-oxide
To a stirred solution of anti-pyruvic aldehyde 1-oxime (2.2 g, 22.2 mmol) in diethyl ether (50 mL) was added 2,4-difluorophenylhydrazine hydrochloride (4.0 g, 22.2 mmol) and pyridine (2 mL). The reaction mixture was stirred at 23° C. for 64 h. The solid that formed was removed by filtration and washed with diethyl ether. The filtrate was concentrated under reduced pressure. The crude residue was dissolved in pyridine (100 mL). A solution of copper(II) sulfate pentahydrate (11.1 g, 44.4 mmol) in water (60 mL) was added at once and the resulting mixture was stirred at reflux for 20 h. The mixture was diluted with water and extracted with diethyl ether. The combined organic layers were washed with 1.0 M aqueous hydrochloric acid, dried (MgSO4) and concentrated under reduced pressure to afford the crude product. The crude material was purified by chromatography on silica gel eluting with 0 to 100% ethyl acetate in hexanes to obtain the title compound (1.98 g) as an orange solid.

reactant | anti-pyruvic aldehyde 1-oxime | 22.2 mmol, 2.2 g | CC(=O)/C=N/O | C3H5NO2
reactant | 2,4-difluorophenylhydrazine hydrochloride | 22.2 mmol, 4.0 g | Cl.FC1=C(C=CC(=C1)F)NN
reactant | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | water | 60 mL | O | H2O
catalyst | copper(II) sulfate pentahydrate | 44.4 mmol, 11.1 g | O.O.O.O.O.S(=O)(=O)([O-])[O-].[Cu+2]
product | 2-(2,4-difluorophenyl)-4,5-dimethyl-2H-1,2,3-triazole 1-oxide | 1.98 g | FC1=C(C=CC(=C1)F)N1[N+](=C(C(=N1)C)C)[O-] | C10H9F2N3O
